US06232290B1
To a solution of 4-[4-[4-(4-cyclohexylphenyl)piperazin-1-yl]piperidin-1-yl]benzonitrile (1.95 g) in acetic acid (10 ml) was added concentrated hydrogen chloride (20 ml) and the mixture was stirred at 120° C. for 10 hours. The reaction mixture was added to water and the resulting precipitate was collected by filtration to give 4-[4-[4-(4-cyclohexylphenyl)piperazin-1-yl]piperidin-1-yl]benzoic acid (959 mg).

reactant | 4-[4-[4-(4-cyclohexylphenyl)piperazin-1-yl]piperidin-1-yl]benzonitrile | 1.95 g | C1(CCCCC1)C1=CC=C(C=C1)N1CCN(CC1)C1CCN(CC1)C1=CC=C(C#N)C=C1 | C28H36N4
reactant | hydrogen chloride | 20 ml | Cl | ClH
reactant | water | O | H2O
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-[4-[4-(4-cyclohexylphenyl)piperazin-1-yl]piperidin-1-yl]benzoic acid | 959 mg | C1(CCCCC1)C1=CC=C(C=C1)N1CCN(CC1)C1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C28H37N3O2
